US07314872B2
Methyl diethylphosphonoacetate (13.35 mL, 73.6 mmol, 1.05 eq.) was dissolved in THF (30 mL) and cooled to −78° C. in an acetone-dry ice bath. n-BuLi (1.6M in hexanes) (45.8 mL, 73.2 mmol, 1.05 eq.) was added slowly over 20 min. Trimethylacetaldehyde (6.0 g, 69.6 mmol, 1.0 eq.), was added to the reaction and allowed to stir at −78° C. for 20 minutes and warmed to room temperature and stirred overnight. Water (30 mL) was added to quench and extracted with ethyl ether (3×100 mL). The combined organics were washed with brine and dried over MgSO4, filtered and evaporated to provide 4,4-Dimethyl-pent-2-enoic acid methyl ester, a colorless liquid (8.52 g, 60.0 mmol, 86%) and was used directly in the next reaction. 1H NMR (CDCl3, 400 MHz) δ 0.89 (s, 9H), 3.64 (s, 3H), 5.64 (d, 1H, J=16.0 Hz), 6.88 (d, 1H, J=16.0 Hz).

reactant | Methyl diethylphosphonoacetate | 73.6 mmol, 13.35 mL, 1.05 eq. | C(C)OP(=O)(OCC)CC(=O)OC | C7H15O5P
reactant | n-BuLi | 73.2 mmol, 1.6M, 45.8 mL, 1.05 eq. | [Li]CCCC
reactant | Trimethylacetaldehyde | 69.6 mmol, 6.0 g, 1.0 eq. | CC(C=O)(C)C | C5H10O
reactant | Water | 30 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4,4-Dimethyl-pent-2-enoic acid methyl ester | COC(C=CC(C)(C)C)=O | C8H14O2
